US09422281B2
A 3-L, three-necked, round bottomed flask fitted with a nitrogen inlet, overhead stirrer, and thermocouple was charged with (S)-7-bromo-3-methyl-1-tosyl-1,2,3,4-tetrahydroquinoxaline (90.43 g, 237 mmol), dichloromethane (1720 mL), and pyridine (28.8 mL, 356 mmol). The solution was cooled to 0° C., and 2,2,2-trifluoroacetic anhydride (40.2 mL, 285 mmol) was slowly added while maintaining the internal temperature below 10° C. Once the addition was complete, the reaction mixture was stirred at 0° C. for 30 min and then warmed to rt. After 1.5 h at rt, the reaction mixture was washed with water (200 mL), 1 M aqueous HCl solution (200 mL) and water (200 mL). The combined organic layers were concentrated under reduced pressure. The crude product was further dried under vacuum (ca 17 Torr) at rt during which time the product crystallized to afford (S)-1-(6-bromo-2-methyl-4-tosyl-3,4-dihydroquinoxaline-1(2H)-yl)-2,2,2-trifluoroethanone (113 g, 99%) as a tan solid. MS (ESI, pos. ion) m/z 477[M+1]+.

reactant | (S)-7-bromo-3-methyl-1-tosyl-1,2,3,4-tetrahydroquinoxaline | 237 mmol, 90.43 g | BrC1=CC=C2N[C@H](CN(C2=C1)S(=O)(=O)C1=CC=C(C)C=C1)C | C16H17BrN2O2S
reactant | pyridine | 356 mmol, 28.8 mL | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trifluoroacetic anhydride | 285 mmol, 40.2 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 1720 mL | ClCCl | CH2Cl2
product | (S)-1-(6-bromo-2-methyl-4-tosyl-3,4-dihydroquinoxaline-1(2H)-yl)-2,2,2-trifluoroethanone | 113 g, 99% | BrC=1C=C2N(C[C@@H](N(C2=CC1)C(C(F)(F)F)=O)C)S(=O)(=O)C1=CC=C(C)C=C1 | C18H16BrF3N2O3S
